datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[H:32])[H:31])([H:29])[H:30]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:27]([C:26](=[C:25]([H:29])[H:30])[H:31])([C:28]([H:33])([H:34])[H:35])[H:32],76.1488
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35])([H:11])([H:12])[H:13],11.7989
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])[H:16])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:19])[H:11],118.114
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8].[O:19][H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8].[H:6][O:19][H:20],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([O:6][O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])[H:15])([O:6][O:7][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],116.7336
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:21])[H:11],47.1537
[O:3].[S:0]([H:1])[H:2]>>[H:1][O:3].[S:0][H:2],11.88256
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[c:7]1([H:19])[c:8]([H:20])[c:9]([H:21])[c:10](-[c:11]2[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]2[H:26])[c:17]([H:27])[c:18]1[H:28]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:10]1([c:11]2[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]2[H:26])[C:9]([H:21])[C:8]([H:20])=[C:7]([H:19])[C:18]([H:28])=[C:17]1[H:27],44.9425
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])([H:5])[C:8]([H:9])([H:10])[H:11],32.6352
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:18]([C:17]([H:25])([H:26])[H:27])([c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])[H:28])[H:9])([H:7])[H:8],24.8948
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:13])([H:14])[H:15])[C:10]#[C:11][H:16])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:12])([C:9]([H:13])([H:14])[H:15])[C:10]#[C:11][H:16],99.8721
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](#[C:20][C:21]([C:22]([H:25])([H:26])[H:27])[C:23]([H:28])([H:29])[H:30])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20]#[C:19][H:24])([C:22]([H:25])([H:26])[H:27])[C:23]([H:28])([H:29])[H:30])[H:9],31.0034
[C:0]([C:1]([N:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9]>>[C:0]([C:1]([N:2]=[O:3])[H:8])([H:4])([H:5])[H:6].[H:7][O:9],15.129344
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[c:6]1([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17]>>[C:0]([C:1](=[S:2])[H:12])([H:3])([H:4])[H:5].[c:6]1[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17],80.7512
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:33])[H:34])[H:32])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[C:35](=[O:36])[H:37]>>[C-:35]#[O+:36].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:33])[H:34])[H:32])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])([H:13])[H:37],0.0
